US08471005B2
4-[4-(7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino)-3-methoxy-phenyl]-piperidine-1-carboxylic acid tert-butyl ester
In a 10 mL sealed tube, to 7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-ol (150.0 mg, 0.701 mmol) and N,N-Diisopropylethylamine (0.488 mL, 2.80 mmol) in 3.8 mL of anhydrous DMF was added N-Phenylbis(trifluoromethanesulfonimide (263 mg, 0.736 mmol). After stirring at room temperature for 2 hours, 4-(4-Amino-3-methoxy-phenyl)-piperidin-1-carboxylic acid tert-butyl ester (214.7 mg, 0.701 mmol) was added. The reaction mixture was heated at 65° C. for 4 hours. The reaction was conc. in vacuo. Water and brine were added and the contents were extracted with DCM. The combined organic layers were dried with sodium sulfate, filtered, and conc. in vacuo. The reaction mixture was purified via silica gel column chromatography using 100:1 DCM:MeOH as the eluant to afford a the title compound as a red oil (52%). 1H NMR (DMSO-d6)-8.89 (s, 1H), 8.23 (d, 1H, J=8.20 Hz), 7.83 (s, 1H), 6.98-6.95 (m, 2H), 6.91 (d, 1H, J=4.72 Hz), 6.85 (d, 1H, J=8.52 Hz), 4.66-4.55 (br s, 1H), 4.16-3.99 (m, 3H), 3.89 (s, 3H), 2.87-2.75 (m, 2H), 1.78 (d, 2H, J=12.93 Hz), 1.70 (d, 1H, J=12.57 Hz), 1.42 (s, 9H).

reactant | 7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 0.701 mmol, 150.0 mg | BrC1=CC=C2C=NC(=NN21)O | C6H4BrN3O
reactant | N,N-Diisopropylethylamine | 2.80 mmol, 0.488 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonimide | 0.736 mmol, 263 mg | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F
reactant | 4-(4-Amino-3-methoxy-phenyl)-piperidin-1-carboxylic acid tert-butyl ester | 0.701 mmol, 214.7 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)N)OC | C17H26N2O3
solvent | DMF | 3.8 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | Water | O | H2O
product | 4-[4-(7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino)-3-methoxy-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 52% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2Br)OC | C23H28BrN5O3
